US08476253B2
Ethyl (3-{[tert-butyl(dimethyl)silyl]oxy}propoxy)acetate
Ethyl hydroxyacetate (600 mg, 5.76 mmol) was dissolved in N,N-dimethylformamide (6 mL), sodium hydride (55%; 277 mg, 0.447 mmol) was added under ice cooling, and then the mixture was stirred at room temperature for 30 minutes. (3-Bromopropoxy)(tert-butyl)dimethylsilane (1.46 mL, 6.34 mmol) was added, and the mixture was stirred at room temperature for 6.5 hours. Ethyl acetate was added to the reaction mixture, and the organic layer was washed with water (×3) and saturated sodium chloride solution. The organic layer was dried with anhydrous sodium sulfate, then the solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1, v/v) to give the title compound (842 mg; yield, 53%) as a colorless oily substance.

reactant | Ethyl hydroxyacetate | 5.76 mmol, 600 mg | OCC(=O)OCC | C4H8O3
reactant | sodium hydride | 0.447 mmol, 277 mg | [H-].[Na+]
reactant | (3-Bromopropoxy)(tert-butyl)dimethylsilane | 6.34 mmol, 1.46 mL | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | Ethyl (3-{[tert-butyl(dimethyl)silyl]oxy}propoxy)acetate | 842 mg, 53% | [Si](C)(C)(C(C)(C)C)OCCCOCC(=O)OCC | C13H28O4Si
